US04548948
Preparation of benzothiophene-3-carboxylic acid (D16)
A solution of 3-bromobenzothiophene (0.40 mole, (D15)) and methyl iodide (25 ml, 0.40 mole) in dry ether (400 ml) was added to a stirred mixture of magnesium turnings (24 g, 1.0 mole) and dry ether (100 ml) under nitrogen, at such a rate as to maintain a steady reflux. After the addition was complete, the reaction mixture was heated under reflux for 30 minutes and then allowed to cool to room temperature. The solution was diluted with dry toluene (500 ml) and stirred vigorously as dry carbon dioxide was bubbled through over 3 hours. The thick precipitate which formed was dissolved by the addition of dilute hydrochloric acid and the organic layer was then separated. The aqueous solution was extracted with ethyl acetate (2×300 ml) and all the organic solutions were then combined and extracted with 10% sodium carbonate solution (4×300 ml). The aqueous extracts were combined, washed with ether (2×200 ml) and then acidified with dilute hydrochloric acid. The precipitate was filtered off, washed with water and then dried under vacuum to give the title compound as a white solid (31.2 g, 44%) m.p. 171°-173°.

reactant | 3-bromobenzothiophene | 0.40 mole | BrC1=CSC2=C1C=CC=C2 | C8H5BrS
reactant | methyl iodide | 0.40 mole, 25 ml | CI | CH3I
reactant | magnesium | 1.0 mole, 24 g | [Mg] | Mg
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 100 ml | CCOCC | C4H10O
product | benzothiophene-3-carboxylic acid | 31.2 g, 44% | S1C=C(C2=C1C=CC=C2)C(=O)O | C9H6O2S
